US06562978B1
To a solution of 1-tert-butoxycarbonyl-4-(4-aminobenzyl)piperidine (1 g, 3.46 mmol) in acetic acid (14 mL) were added orthoethyl formate (2.4 mL, 20.7 mmol) and sodium azide (0.27 g, 4.13 mmol), and the mixture was stirred at room temperature for 30 minutes and at 80° C. for 2 hours. The mixture was cooled to room temperature. To the mixture were added water (20 mL) and a solution of sodium nitrite (4.3 g) in water (20 mL), and the mixture was stirred at room temperature for 10 minutes and extracted with ethyl acetate. The extract was washed with aqueous solution of sodium hydrogencarbonate and saturated sodium chloride solution, dried over anhydrous magnesium sulfate and concentrated under reduced pressure, and the concentrate was purified by silica gel column chromatography (hexane/ethyl acetate=2/3) to give 1-tert-butoxycarbonyl-4-[4-(1H-tetrazol-1-yl)benzyl]piperidine (950 mg) as colorless powdery crystals. This compound (950 mg, 2.78 mmol) was dissolved in ethyl acetate (10 mL). To the solution was added 4N-hydrogen chloride in ethyl acetate (10 mL), and the mixture was stirred at room temperature for 2 hours. The resulting crystals were collected by filtration, washed with ethyl acetate (5 mL) and dried to give the titled compound (697 mg) as colorless powdery crystals.

reactant | 1-tert-butoxycarbonyl-4-(4-aminobenzyl)piperidine | 3.46 mmol, 1 g | C(C)(C)(C)OC(=O)N1CCC(CC1)CC1=CC=C(C=C1)N | C17H26N2O2
reactant | sodium azide | 4.13 mmol, 0.27 g | [N-]=[N+]=[N-].[Na+]
reactant | sodium nitrite | 4.3 g | N(=O)[O-].[Na+]
reactant | acetic acid | 14 mL | C(C)(=O)O | C2H4O2
solvent | water | 20 mL | O | H2O
solvent | water | 20 mL | O | H2O
product | 1-tert-butoxycarbonyl-4-[4-(1H-tetrazol-1-yl)benzyl]piperidine | 950 mg | C(C)(C)(C)OC(=O)N1CCC(CC1)CC1=CC=C(C=C1)N1N=NN=C1 | C18H25N5O2
